US04783453
A solution of p-nitrobenzyl 2-(2-acetoxy-2-methyl-aziridin-1-yl)-carbapen-2-em-3-carboxylate (0.9 mg, 2.3 micromol) in dioxane (100 microliter), deionized water (60 microliter), absolute ethanol (8 microliter), and 0.5M aqueous sodium bicarbonate (5 microliter) was shaken with 10% (w/w) palladium on charcoal (1.1 mg) under hydrogen (50 psig) for 30 min. The mixture was centrifuged and the pellet washed with deionized water (3×100 microliter). The combined supernate and washes were extracted with ethyl acetate (3×0.5 ml) and concentrated under vacuum to provide 420 microliter of a solution of sodium 2-(2-acetoxy-2-methylaziridin-1-yl)-carbapen-2-em-3-carboxylate.

reactant | p-nitrobenzyl 2-(2-acetoxy-2-methyl-aziridin-1-yl)-carbapen-2-em-3-carboxylate | 2.3 micromol, 0.9 mg | C(C)(=O)OC1(N(C1)C=1C[C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(C2)=O)C | C19H19N3O7
reactant | sodium bicarbonate | 0.5M, 5 microliter | C([O-])(O)=O.[Na+]
solvent | dioxane | 100 microliter | O1CCOCC1 | C4H8O2
solvent | water | 60 microliter | O | H2O
solvent | ethanol | 8 microliter | C(C)O | C2H6O
catalyst | palladium on charcoal | 1.1 mg | [Pd] | Pd
product | sodium 2-(2-acetoxy-2-methylaziridin-1-yl)-carbapen-2-em-3-carboxylate | C(C)(=O)OC1(N(C1)C=1C[C@H]2N(C1C(=O)[O-])C(C2)=O)C.[Na+] | InChI=1S/C12H14N2O5.Na/c1-6(15)19-12(2)5-13(12)8-3-7-4-9(16)14(7)10(8)11(17)18;/h7H,3-5H2,1-2H3,(H,17,18);/q;+1/p-1/t7-,12?,13?;/m1./s1
